US07968570B2
A mixture of 2-bromomethyl-benzoic acid methyl ester (0.230 g, 1 mmol), 4-phenylsulfanyl-benzylamine (0.215 g, 1 mmol), and K2CO3 (0.230 g, 1.67 mmol) in toluene (6 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 2-(4-phenylsulfanyl-benzyl)-2,3-dihydro-isoindol-1-one (0.175 g, 53%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.27 (s, 2H), 4.77 (s, 2H) 7.22-7.49 (m, 12H), 7.88 (d, 1H). GC-MS: m/z 331 (M)+.

reactant | 2-bromomethyl-benzoic acid methyl ester | 1 mmol, 0.230 g | COC(C1=C(C=CC=C1)CBr)=O | C9H9BrO2
reactant | 4-phenylsulfanyl-benzylamine | 1 mmol, 0.215 g | C1(=CC=CC=C1)SC1=CC=C(CN)C=C1 | C13H13NS
reactant | K2CO3 | 1.67 mmol, 0.230 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 2-(4-phenylsulfanyl-benzyl)-2,3-dihydro-isoindol-1-one | 0.175 g, 53% | C1(=CC=CC=C1)SC1=CC=C(CN2C(C3=CC=CC=C3C2)=O)C=C1 | C21H17NOS
